US04018922
A solution of 40 g of 2-(1-benzyl-4-heptyl-4-piperidyloxy)-ethanol in 300 ml of absolute ethanol was reacted with hydrogen at 50° C in the presence of 0.4 g of 5% palladized charcoal until the theoretical amount of hydrogen was absorbed and the catalyst was then filtered off. The ethanol was distilled off and the residue was rectified to obtain 10.6 g of 2-(4-heptyl-4-piperidyloxy)-ethanol as a colorless oil boiling at 110°-130° C at 0.1 mm Hg.

reactant | 2-(1-benzyl-4-heptyl-4-piperidyloxy)-ethanol | 40 g | C(C1=CC=CC=C1)N1CCC(CC1)(OCCO)CCCCCCC | C21H35NO2
reactant | hydrogen | [H][H] | H2
reactant | charcoal | C | CH4
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(4-heptyl-4-piperidyloxy)-ethanol | 10.6 g | C(CCCCCC)C1(CCNCC1)OCCO | C14H29NO2
